US04230623
A solution of 7 g. of 2-(p-methoxyphenyl)-5,5-dimethyl-4-(p-dimethylaminophenyl)-1-pyrroline hydrochloride in water is made alkaline with 3-N sodium hydroxide and extracted with methylene chloride. The organic phase is washed with water and dried over sodium sulfate. The oil which remains after removal of the solvent is taken up in 150 ml. of absolute ethanol and the solution treated with 5 g. of sodium borohydride. The mixture is then stirred at room temperature for 12 hours under nitrogen. Subsequently, the mixture is evaporated to dryness under reduced pressure and the residue suspended in water by intensive stirring. The non-dissolved constituent is filtered off, dried and recrystallized from n-pentane. The thus-purified base is taken up in ethanolic hydrochloric acid, again evaporated to dryness under reduced pressure and the residue recrystallized from ethanol/acetone. There is obtained cis-3-(p-dimethylaminophenyl)-2,2-dimethyl-5-(p-methoxyphenyl)-pyrrolidine dihydrochloride, having a melting point of 180° C.

reactant | 2-(p-methoxyphenyl)-5,5-dimethyl-4-(p-dimethylaminophenyl)-1-pyrroline hydrochloride | Cl.COC1=CC=C(C=C1)C1=NC(C(C1)C1=CC=C(C=C1)N(C)C)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | cis-3-(p-dimethylaminophenyl)-2,2-dimethyl-5-(p-methoxyphenyl)-pyrrolidine dihydrochloride | Cl.Cl.CN(C1=CC=C(C=C1)[C@@H]1C(N[C@@H](C1)C1=CC=C(C=C1)OC)(C)C)C | InChI=1S/C21H28N2O.2ClH/c1-21(2)19(15-6-10-17(11-7-15)23(3)4)14-20(22-21)16-8-12-18(24-5)13-9-16;;/h6-13,19-20,22H,14H2,1-5H3;2*1H/t19-,20+;;/m1../s1
